US04263319
I. Preparation of 4-phenyl-2-indanol
To a stirred mixture of 0.30 g (0.0014 mole) of 4-phenyl-2-indanone in 10 ml of ethanol was added portionwise 0.03 g (0.0008 mole) of sodium borohydride. The resulting yellow colored solution was stirred at ambient temperature for 1.5 hours, then concentrated, and 50 ml of water was added. The mixture was extracted with two portions of 50 ml each of diethyl ether. The extracts were combined, dried with sodium sulfate, filtered and the filtrate concentrated under reduced pressure to give, after recrystallization from hexane, 0.13 g of 4-phenyl-2-indanol. The nmr and ir spectra were consistent with the proposed structure.

reactant | 4-phenyl-2-indanone | 0.0014 mole, 0.30 g | C1(=CC=CC=C1)C1=C2CC(CC2=CC=C1)=O | C15H12O
reactant | sodium borohydride | 0.0008 mole, 0.03 g | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-phenyl-2-indanol | C1(=CC=CC=C1)C1=C2CC(CC2=CC=C1)O | C15H14O
